US05849753
Step 1: Preparation of 6-amino-3-bromo-2-picoline
32.4 g(0.3 mole) of 6-aminopicoline was dissolved in a mixture of 28 g of conc. sulfuric acid and 120 ml of water and the resulting solution was cooled in ice water. 52.8 g(0.33 mole) of bromine was added dropwise to the solution over 30 minutes at 0° C. The reaction solution was stirred for 20 minutes at room temperature and neutralized with cold aqueous NaOH solution. The resultant was filtered and purified by column chromatography using methylene chloride and ethyl acetate as an eluent to obtain 31 g of the title compound(yield 55%).

reactant | 6-aminopicoline | 0.3 mole, 32.4 g | NC1=CC=CC(=N1)C | C6H8N2
reactant | bromine | 0.33 mole, 52.8 g | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 28 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 120 ml | O | H2O
product | 6-amino-3-bromo-2-picoline | 31 g, yield 55% | NC1=CC=C(C(=N1)C)Br | C6H7BrN2
